US09227963B2
Imidazo[1,2-a]pyrazin-2-amine
2,2,2-Trifluoro-N-(imidazo[1,2-a]pyrazin-2-yl)acetamide (prepared as described in WO2004/058266A1, 520 mg) was dissolved in 7N NH3 in methanol (4.0 mL), and heated at 68° C. in a sealed tube for 6 hours. The reaction mixture was then cooled and concentrated to provide the title compound.

reactant | 2,2,2-Trifluoro-N-(imidazo[1,2-a]pyrazin-2-yl)acetamide | 520 mg | FC(C(=O)NC=1N=C2N(C=CN=C2)C1)(F)F | C8H5F3N4O
solvent | NH3 | 7N | N | H3N
solvent | methanol | 4.0 mL | CO | CH4O
product | Imidazo[1,2-a]pyrazin-2-amine | N=1C(=CN2C1C=NC=C2)N | C6H6N4
